US09422332B2
To a solution of (S)-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide trifluoroacetate (80 mg, 191 μmol, Eq: 1.00), (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid (41.5 mg, 191 μmol, Eq: 1.00) and HATU (79.9 mg, 210 μmol, Eq: 1.1) in DMF (500 μL) at 0° C. was added DIEA (74.1 mg, 100 μL, 573 μmol, Eq: 3). The reaction was stirred at RT for 1 h, diluted with water and extracted with EtOAc. The combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give {(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propyl}-carbamic acid tert-butyl ester (47 mg) as a white foam.

reactant | (S)-1,2,3,4-tetrahydro-isoquinoline-1-carboxylic acid (2-chloro-6-fluoro-phenyl)-amide trifluoroacetate | 191 μmol, 80 mg | FC(C(=O)O)(F)F.ClC1=C(C(=CC=C1)F)NC(=O)[C@H]1NCCC2=CC=CC=C12
reactant | (S)-2-(tert-butoxycarbonylamino)-3-methylbutanoic acid | 191 μmol, 41.5 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(C)C | C10H19NO4
reactant | HATU | 210 μmol, 79.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 573 μmol, 100 μL, 74.1 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | {(S)-1-[(S)-1-(2-chloro-6-fluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carbonyl]-2-methyl-propyl}-carbamic acid tert-butyl ester | 47 mg | C(C)(C)(C)OC(N[C@@H](C(C)C)C(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)Cl)=O)=O | C26H31ClFN3O4
